US08022222B2
Following the method of Example 1, Step D, 2-(4-methylthiazol-2-ylamino)pyridin-4-ol (0.100 g, 0.483 mmol), 4-fluorobenzonitrile (0.064 g, 0.531 mmol) and potassium carbonate (0.167 g, 1.21 mmol) were reacted to provide 4-(2-(4-methylthiazol-2-ylamino)pyridin-4-yloxy)benzonitrile (0.033 g; 20.0% yield) as white solid. 1H NMR (CDCl3) δ 8.27 (d, 1H), 7.72 (m, 1H), 7.70 (m, 1H), 7.18 (m, 1H), 7.16 (m, 1H), 6.52 (dd, 1H), 6.49 (m, 1H), 6.38 (s, 1H), 2.28 (d, 3H). HPLC (5 to 95) Rt=2.69 min; Mass spectrum (esi) m/z=309 (M+H).

reactant | 2-(4-methylthiazol-2-ylamino)pyridin-4-ol | 0.483 mmol, 0.100 g | CC=1N=C(SC1)NC1=NC=CC(=C1)O | C9H9N3OS
reactant | 4-fluorobenzonitrile | 0.531 mmol, 0.064 g | FC1=CC=C(C#N)C=C1 | C7H4FN
reactant | potassium carbonate | 1.21 mmol, 0.167 g | C([O-])([O-])=O.[K+].[K+]
product | 4-(2-(4-methylthiazol-2-ylamino)pyridin-4-yloxy)benzonitrile | 0.033 g, 20.0% yield | CC=1N=C(SC1)NC1=NC=CC(=C1)OC1=CC=C(C#N)C=C1 | C16H12N4OS
